US05093370
First, 16.5 g of p-diiodobenzene and 8.0 g of 3-butyn-1-ol were dissolved in 200 ml of triethylamine, 0.35 g of bis(triphenylphosphine)palladium (II) chloride and 0.19 g of cuprous iodide were added thereto, and the reaction mixture was stirred under nitrogen gas flow at a room temperature for 3 hours. After the reaction was completed, an insoluble matter was filtered off and the filtrate was evaporated under a reduced pressure. To the residue was added a small amount of ethyl acetate, which was then evaporated under a reduced pressure. To the residue was added water, and the mixture was extracted with 100 ml of ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. On the other hand the insoluble matter obtained above was acidified with 1N HCl and extracted with 100 ml of ethyl acetate, and the extract was washed with a saturated sodium chloride aqueous solution and dried over magnesium sulfate. This ethyl acetate layer was combined with the ethyl acetate layer obtained above, and the mixture was evaporated under a reduced pressure to obtain 10.2 g of 1,4-bis(4-hydroxy-1-butynyl)benzene as a yellow residue.

reactant | p-diiodobenzene | 16.5 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | 3-butyn-1-ol | 8.0 g | C(CC#C)O | C4H6O
reactant | HCl | 1N | Cl | ClH
solvent | triethylamine | 200 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.35 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 1,4-bis(4-hydroxy-1-butynyl)benzene | 10.2 g | OCCC#CC1=CC=C(C=C1)C#CCCO | C14H14O2
